US07855297B2
To a mixed solvent of ethanol (43 mL) and water (18 mL) were added iron (0.43 g) and ammonium chloride (0.06 g), and a solution of N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-8-nitrochroman-4-carboxamide (0.9 g) in ethanol (10 mL) was added dropwise with heating and stirring at 50° C.-70° C. After stirring at 50° C.-70° C. for 3 hr, the reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give 8-amino-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)chroman-4-carboxamide (0.66 g).

reactant | water | 18 mL | O | H2O
reactant | ammonium chloride | 0.06 g | [Cl-].[NH4+]
reactant | N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-8-nitrochroman-4-carboxamide | 0.9 g | C(C)N1N=CC(=C1)CN(C(=O)C1CCOC2=C(C=CC=C12)[N+](=O)[O-])C1=CC=C(C=C1)C(C)C | C25H28N4O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | iron | 0.43 g | [Fe] | Fe
solvent | ethanol | 43 mL | C(C)O | C2H6O
product | 8-amino-N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)chroman-4-carboxamide | 0.66 g | NC=1C=CC=C2C(CCOC12)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CC | C25H30N4O2
